US06143764
N-(3,4-Dimethoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [198]
3,4-Dimethoxyaniline (42 mg) was dissolved in toluene (5 ml), triphosgene (24 mg) was added, and the admixture was refluxed with heat for 22 minutes. 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was added, and the admixture was refluxed with heat for 18 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 15 mg of the title compound (yield: 18%).

reactant | 3,4-Dimethoxyaniline | 42 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | triphosgene | 24 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,4-Dimethoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 15 mg, yield: 18% | COC=1C=C(C=CC1OC)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C26H25N3O6
